US06492403B1
Using a procedure similar to Example 208, step (a), 74.4 mg (0.36 mmol) of methyl 4-amino-5-methylthiothiophene-2-carboxylate was allowed to react with 128 mg (2 equiv, 0.72 mmol) of 4-butylphenyl boronic acid to give 22.2 mg (18.3%) of methyl 4-[(4-butylphenyl)amino]-5-methylthiothiophene-2-carboxylate. 1H NMR (CDCl3, 400 MHz) δ0.97 (t, 2H, J=7.4 Hz), 1.38 (m, 2H), 1.59 (m, 2H obscured by water), 2.39 (s, 3H), 2.58 (t, 2H, J=7.6 Hz), 3.90 (s, 3H), 6.12 (bs, 1H), 6.97 (d, 2H, J=8.2 Hz), 7.12 (d, 2H, J=8.4 Hz), 7.73 (s, 1H).

reactant | methyl 4-amino-5-methylthiothiophene-2-carboxylate | 0.36 mmol, 74.4 mg | NC=1C=C(SC1C)C(=S)OC | C7H9NOS2
reactant | 4-butylphenyl boronic acid | 0.72 mmol, 128 mg, 2 equiv | C(CCC)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | methyl 4-[(4-butylphenyl)amino]-5-methylthiothiophene-2-carboxylate | 22.2 mg, 18.3% | C(CCC)C1=CC=C(C=C1)NC=1C=C(SC1C)C(=S)OC | C17H21NOS2
